US07723349B2
To a mixture of 2-methylquinoline (43.0 g, 0.3 mol), iron (5.04 g, 0.09 mol), FeSO4.7H2O (25.0 g, 0.09 mol) in methanol(400 mL) and water (200 mL) was added sulfuric acid (conc., 16.0 mL, 0.3 mol) at 0° C., and then H2O2 (160 mL) was slowly added at 0° C. The mixture was then warmed to room temperature and stirred overnight. The solution was diluted with water, basified with ammonium hydroxide, and extracted with ethyl acetate. The combined extract was washed with brine, dried and concentrated. Recrysatllization from ethyl ether/hexane to give (2-Methylquinolin-4-yl)methanol (12.0 g). ESI (M+H)+173.9.

reactant | 2-methylquinoline | 0.3 mol, 43.0 g | CC1=NC2=CC=CC=C2C=C1 | C10H9N
reactant | sulfuric acid | 0.3 mol, 16.0 mL | S(O)(O)(=O)=O | H2O4S
reactant | H2O2 | 160 mL | OO | H2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | methanol | 400 mL | CO | CH4O
solvent | water | 200 mL | O | H2O
catalyst | iron | 0.09 mol, 5.04 g | [Fe] | Fe
product | (2-Methylquinolin-4-yl)methanol | 12.0 g | CC1=NC2=CC=CC=C2C(=C1)CO | C11H11NO
